US08217176B2
Production of 2-{[2-(aminomethyl)piperidin-1-yl]carbonyl}-3-methoxy-5-(2-oxo-2-phenylethyl)thieno[3,2-c]quinolin-4(5H)-one hydrochloride
A solution of the obtained tert-butyl [(1-{[3-methoxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinolin-2-yl]carbonyl}piperidin-2-yl)methyl]carbamate (150 mg) and 4N hydrogen chloride ethyl acetate solution (8 mL) in ethyl acetate (15 mL) was stirred at room temperature for 18 hr. The obtained precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (133 mg, 67%) as a white powder.

reactant | tert-butyl [(1-{[3-methoxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinolin-2-yl]carbonyl}piperidin-2-yl)methyl]carbamate | 150 mg | COC1=C(SC2=C1C(N(C=1C=CC=CC21)CC(C2=CC=CC=C2)=O)=O)C(=O)N2C(CCCC2)CNC(OC(C)(C)C)=O | C32H35N3O6S
reactant | hydrogen chloride ethyl acetate | 4N, 8 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-{[2-(aminomethyl)piperidin-1-yl]carbonyl}-3-methoxy-5-(2-oxo-2-phenylethyl)thieno[3,2-c]quinolin-4(5H)-one hydrochloride | 133 mg, 67% | Cl.NCC1N(CCCC1)C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC | InChI=1S/C27H27N3O4S.ClH/c1-34-23-22-24(35-25(23)27(33)29-14-8-7-11-18(29)15-28)19-12-5-6-13-20(19)30(26(22)32)16-21(31)17-9-3-2-4-10-17;/h2-6,9-10,12-13,18H,7-8,11,14-16,28H2,1H3;1H
